US07816371B2
a. (R)-2-(5-Amino-6-methoxy-1-oxoisoquinolin-2(1H)-yl)propanamide
A mixture of (R)-2-(6-methoxy-5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide (200 mg, 0.0007 mol), methanol (20 mL, 0.5 mol) and palladium, 10% weight on charcoal (21 mg, 0.00017 mol) was stirred under hydrogen (1 atm) for 3 h. The reaction mixture was filtered over celite and the solvent removed to obtain the product as a brown solid. MS m/z=263.3 (M+H).

reactant | (R)-2-(6-methoxy-5-nitro-1-oxoisoquinolin-2(1H)-yl)propanamide | 0.0007 mol, 200 mg | COC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](C(=O)N)C)[N+](=O)[O-] | C13H13N3O5
reactant | methanol | 0.5 mol, 20 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(5-Amino-6-methoxy-1-oxoisoquinolin-2(1H)-yl)propanamide | NC1=C2C=CN(C(C2=CC=C1OC)=O)[C@@H](C(=O)N)C | C13H15N3O3
